US09446394B2
Dec-9-en-1-yl oct-7-enoate (Precursor to Ambrettolide)
Following the aforementioned procedure, diene was prepared from oct-7-enoic acid and dec-9-en-1-ol. The resulting yellow oil was purified by silica gel chromatography (50:1 hexanes: diethyl ether) to afford the desired product as a colorless oil. IR (neat): 3077 (m), 2926 (s), 2855 (s), 1736 (s), 1641 (m), 1462 (m), 1417 (m), 1351 (m), 1255 (s), 1168 (s), 1113 (m), 1076 (m), 993 (s), 909 (s), 734 (m), 632 (m); 1H NMR (400 MHz, CDCl3): δ 5.86-5.75 (2H, m), 5.02-4.91 (4H, m), 4.05 (2H, t, J=6.8 Hz), 2.29 (2H, t, J=7.6 Hz), 2.08-2.01 (4H, m), 1.67-1.59 (4H, m), 1.42-1.27 (14H, m); 13C NMR (100 MHz, CDCl3): δ 174.0, 139.2, 138.9, 114.5, 114.3, 64.5, 34.4, 33.9, 33.7, 29.5, 29.3, 29.1, 29.0, 28.8, 28.7, 28.6, 26.0, 25.0; HRMS (ESI+) [M+H]+ calcd for C18H33O2: 281.2481. found: 281.2475.

reactant | oct-7-enoic acid | C(CCCCCC=C)(=O)O | C8H14O2
reactant | dec-9-en-1-ol | C(CCCCCCCC=C)O | C10H20O
product | Dec-9-en-1-yl oct-7-enoate | C(CCCCCC=C)(=O)OCCCCCCCCC=C | C18H32O2
